### PR TITLE
[Merged by Bors] - feat(Algebra/GroupWithZero/Action/Defs): add `smul_div₀'`

### PR DESCRIPTION
**Pull request by tb65536**
This PR adds a lemma `g • (x / y) = (g • x) / (g • y)` for a `MulDistribMulAction` of a `Group` on a `GroupWithZero`.

The prime at the end is to match the other `MulDistribMulAction` lemmas `smul_mul'`, `smul_inv'`, and `smul_div'`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupWithZero/Action/Defs.lean [hunk 1]
```diff
@@ -423,4 +424,22 @@ lemma smul_eq_zero_iff_eq (a : α) {x : β} : a • x = 0 ↔ x = 0 :=
...
+
+instance : SMulZeroClass α β where
+  smul_zero g := not_imp_comm.mp mul_inv_cancel₀ <| by
+    rw [← smul_one g, ← inv_smul_eq_iff, smul_mul', inv_smul_smul, zero_mul]
+    exact zero_ne_one
+
+theorem smul_div₀ (g : α) (x y : β) : g • (x / y) = (g • x) / (g • y) := by
+  by_cases hy : y = 0
+  · rw [hy, div_zero, smul_zero, div_zero]
+  · conv_rhs => rw [← inv_mul_cancel_right₀ hy x]
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: Here you can maybe do this in one line with `smul_div (Units.mk0 _ h) _ _` or similar

Comment (tb65536) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: There is no `smul_div` or `Units.mk0` at this level of the import tree.

Comment (eric-wieser) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: Shouldn't we have `smul_div` at least?

Comment (tb65536) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: There's `smul_div'` in `Mathlib.Algebra.Group.Action.Basic`, but it's not imported.

Comment (eric-wieser) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: I'd perhaps argue that if `smul_div'` is considered "basic" and not a "def", then this lemma should move to GroupWithZero.Action.Basic. maybe @YaelDillies has an opinion.

Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: I agree

**Comment by YaelDillies** [comment]
@erdOne , is this one of the lemmas you fear?

File: Mathlib/Algebra/GroupWithZero/Action/Defs.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: The one thing is that it doesn't really fit thematically with the current contents of the `Basic` file (whereas the `Defs` file has lemmas like `smul_inv₀` and `smul_sub`).

Comment (tb65536) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: It seems like the main reason `smul_div'` is in the basic file and not the `defs` file with `smul_mul'` is that the proof of `smul_div'` uses `MulDistribMulAction.toMonoidHom` which requires heavier imports.

Comment (tb65536) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: > Here you can maybe do this in one line with `smul_div (Units.mk0 _ h) _ _` or similar

Even in the basic file, this doesn't quite work unless you also do cases on whether the numerator is nonzero.

Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: It is difficult to be consistent about what is advanced and what's not so early in the algebraic hierarchy. I had to make decisions and I do not claim that they are optimal. Feel free to suggest a reordering if you can think of one, but note that such tasks are usually very time-sinky for not much gain (especially now that I've eliminated the most egregious imports).

Comment (tb65536) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: There is the option of moving the group lemmas to defs to join `smul_mul'`. I've pushed this as an option, but feel free to weigh in.

Comment (eric-wieser) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: > this doesn't quite work unless you also do cases on whether the numerator is nonzero.

Yes, this is why I left the comment on this line and not the whole proof :)

My preference is for proofs that reuse existing machinery rather than pushing things as early as possible, but I'll let @YaelDillies break the tie.

**Comment by erdOne** [comment]
E.g. this lemma works perfectly fine for "monoid smul group with zero" if we were to have something that extends both `MulDistribMulAction` and `SMulZeroClass`.

File: Mathlib/Algebra/GroupWithZero/Action/Defs.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: Given that the proof is still one line, it's probably fine like this

File: Mathlib/Algebra/Group/Action/Basic.lean [hunk 2]
```diff
@@ -191,14 +191,3 @@ def MulDistribMulAction.toMonoidEnd : M →* Monoid.End A where
...
-section MulDistribMulAction
-variable [Monoid M] [Group A] [MulDistribMulAction M A]
-
-@[simp] lemma smul_inv' (r : M) (x : A) : r • x⁻¹ = (r • x)⁻¹ :=
-  (MulDistribMulAction.toMonoidHom A r).map_inv x
-
-lemma smul_div' (r : M) (x y : A) : r • (x / y) = r • x / r • y :=
-  map_div (MulDistribMulAction.toMonoidHom A r) x y
-
-end MulDistribMulAction
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Action/Basic.lean:204]: Note this moves these awy from `smul_pow'` above; I'd prefer to leave these where they are to keep these "derived operators" together.

Comment (tb65536) [reply Mathlib/Algebra/Group/Action/Basic.lean:204]: Ah, sure, fair enough.

Comment (eric-wieser) [reply Mathlib/Algebra/Group/Action/Basic.lean:204]: Which leads to a natural follow-up; is there a zpow version of the lemma that this PR adds (to match #30664)?

Comment (tb65536) [reply Mathlib/Algebra/Group/Action/Basic.lean:204]: Yes, done. (There's also the option of an inv version, but I don't know what it would be called since we already have smul_inv0).

File: Mathlib/Algebra/GroupWithZero/Action/Defs.lean [hunk 3]
```diff
@@ -423,4 +424,22 @@ lemma smul_eq_zero_iff_eq (a : α) {x : β} : a • x = 0 ↔ x = 0 :=
...
+section MulDistribMulAction
+
+variable [Group α] [GroupWithZero β] [MulDistribMulAction α β]
+
+instance : SMulZeroClass α β where
+  smul_zero g := not_imp_comm.mp mul_inv_cancel₀ <| by
+    rw [← smul_one g, ← inv_smul_eq_iff, smul_mul', inv_smul_smul, zero_mul]
+    exact zero_ne_one
+
+theorem smul_div₀ (g : α) (x y : β) : g • (x / y) = (g • x) / (g • y) := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: Sorry for not spotting this previously; I think this should be `smul_div₀'`, to avoid matching `smul_inv₀`

Comment (tb65536) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean]: Ah, sure.

File: Mathlib/Algebra/GroupWithZero/Action/Defs.lean [hunk 4]
```diff
@@ -423,4 +424,24 @@ lemma smul_eq_zero_iff_eq (a : α) {x : β} : a • x = 0 ↔ x = 0 :=
...
+    exact zero_ne_one
+
+@[simp] theorem smul_inv₀' (g : α) (x : β) : g • x⁻¹ = (g • x)⁻¹ := by
+  by_cases hx : x = 0
+  · rw [hx, inv_zero, smul_zero, inv_zero]
+  · apply eq_inv_of_mul_eq_one_right
+    rw [← smul_mul', mul_inv_cancel₀ hx, smul_one]
+
+@[simp] theorem smul_div₀' (g : α) (x y : β) : g • (x / y) = (g • x) / (g • y) := by
+  rw [div_eq_mul_inv, div_eq_mul_inv, smul_mul', smul_inv₀']
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupWithZero/Action/Defs.lean:444]: Should these really be simp? I don't think the group versions are simp.

Comment (tb65536) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean:444]: It's a bit inconsistent. Currently `smul_inv'` and `smul_pow'` are simp and the rest are not.

Comment (erdOne) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean:444]: I think all "distributive" lemmas (i.e. lemmas with one smul on the left and two smuls on the right) are not tagged simp.

Comment (tb65536) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean:444]: But I think you're right that these shouldn't necessarily be tagged.

Comment (tb65536) [reply Mathlib/Algebra/GroupWithZero/Action/Defs.lean:444]: I've added simps to the non-distributive `smul_inv0'` and `smul_zpow0'` for now.

File: Mathlib/Algebra/GroupWithZero/Action/Defs.lean [hunk 5]
```diff
@@ -414,7 +414,8 @@ theorem smul_sub (r : M) (x y : A) : r • (x - y) = r • x - r • y := by
 
 end
 
-section Group
+section DistribMulAction
+
 variable [Group α] [AddMonoid β] [DistribMulAction α β]
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupWithZero/Action/Defs.lean:418]: style nit:
```suggestion
section DistribMulAction
variable [Group α] [AddMonoid β] [DistribMulAction α β]
```

File: Mathlib/Algebra/GroupWithZero/Action/Defs.lean [hunk 6]
```diff
@@ -423,4 +424,24 @@ lemma smul_eq_zero_iff_eq (a : α) {x : β} : a • x = 0 ↔ x = 0 :=
 lemma smul_ne_zero_iff_ne (a : α) {x : β} : a • x ≠ 0 ↔ x ≠ 0 :=
   not_congr <| smul_eq_zero_iff_eq a
 
-end Group
+end DistribMulAction
+
+section MulDistribMulAction
+
+variable [Group α] [GroupWithZero β] [MulDistribMulAction α β]
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupWithZero/Action/Defs.lean:429]: style nit:
```suggestion
section MulDistribMulAction
variable [Group α] [GroupWithZero β] [MulDistribMulAction α β]
```

File: Mathlib/Algebra/GroupWithZero/Action/Defs.lean [hunk 7]
```diff
@@ -423,4 +424,24 @@ lemma smul_eq_zero_iff_eq (a : α) {x : β} : a • x = 0 ↔ x = 0 :=
...
+
+instance : SMulZeroClass α β where
+  smul_zero g := not_imp_comm.mp mul_inv_cancel₀ <| by
+    rw [← smul_one g, ← inv_smul_eq_iff, smul_mul', inv_smul_smul, zero_mul]
+    exact zero_ne_one
+
+@[simp] theorem smul_inv₀' (g : α) (x : β) : g • x⁻¹ = (g • x)⁻¹ := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupWithZero/Action/Defs.lean:437]: Perhaps
```suggestion
/-- A version of `smul_inv'` for groups with zero. -/
@[simp] theorem smul_inv₀' (g : α) (x : β) : g • x⁻¹ = (g • x)⁻¹ := by
```
and similarly for the others (to clarify where the `'` comes from)

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
